US04939140
To a suspension of ethyl-5-chloro-benzofuran carboxylate (1.05 g), prepared according to Helv. Chim. Acta., 818 (1935), in tetrahydrofuran (10 ml) was added lithium aluminum hydride (0.1 g). The mixture was stirred at room temperature for 1 hour. Ethyl acetate (50 ml) was slowly added to the reaction mixture, and the whole mixture was poured onto water (50 ml). The organic extract was separated, washed with water (2×25 ml), dried and evaporated to obtain 2-hydroxymethyl-5-cnlorobenzofuran as an oil [0.87 g; 'HNMR (CDCl3, 60 MHz): 4.6 (s, 2H), 6.6-7.4 (m, 4H)]. This material was added to a solution of methanesulfonyl chloride (1.15 g) in methylene chloride (20 ml) containing pyridine (1 ml). After stirring the reaction overnight it was poured onto ice-water (20 ml) and the organic extract was first washed with 10% HCl (5 ml) and then with water (2×10 ml). The washed extract was dried and evaporated to obtain 2-chloromethyl-5-chlorobenzofuran as a clear oil (yield: 0.5 g); HNMR (CDCl3, 60 MHz): 4.65 (s, 2H), 6.6 (s, 1H), 6.8-7.4 (m, 3H).

reactant | ethyl-5-chloro-benzofuran carboxylate | 1.05 g | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2)Cl | C11H9ClO3
reactant | lithium aluminum hydride | 0.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
reactant | methanesulfonyl chloride | 1.15 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 2-chloromethyl-5-chlorobenzofuran | yield: 0.5 g | ClCC=1OC2=C(C1)C=C(C=C2)Cl | C9H6Cl2O
